US07723538B2
4-[3-(5-Chloro-2-methoxy-benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid, MS (ISP): m/e=519.2 (M−H), was prepared in analogy to example 31, steps A to D. Step C was performed using 5-chloro-2-methoxy-benzenesulfonyl chloride and yielded 4-[3-(5-chloro-2-methoxy-benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D

reactant | 4-[3-(5-Chloro-2-methoxy-benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid | ClC=1C=CC(=C(C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C(C1OC)OC)OC | C23H21ClN2O8S
reactant | 5-chloro-2-methoxy-benzenesulfonyl chloride | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
product | 4-[3-(5-chloro-2-methoxy-benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=C(C(=C1)OC)OC)NS(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O)=O | C25H25ClN2O8S
